.title KiCad schematic
E1 Net-_E1-Pad1_ GND Net-_E1-Pad3_ Net-_E1-Pad4_ 1
V2 Net-_E1-Pad4_ GND sin(0 5 100k)
C1 GND Net-_C1-Pad2_ 57n
R1 Net-_E1-Pad1_ Net-_L1-Pad1_ 10
L1 Net-_L1-Pad1_ Net-_C1-Pad2_ 1m
R2 Net-_C1-Pad2_ GND 1k
V1 Net-_E1-Pad3_ GND sin(0 1 1k 0 0)
.end
