.title kicad schematic

e1 net-_e1-pad1_ gnd net-_e1-pad3_ net-_e1-pad4_ 1
v2 net-_e1-pad4_ gnd sin(0 5 100k)
c1 gnd net-_c1-pad2_ 57n
r1 net-_e1-pad1_ net-_l1-pad1_ 10
l1 net-_l1-pad1_ net-_c1-pad2_ 1m
r2 net-_c1-pad2_ gnd 1k
v1 net-_e1-pad3_ gnd sin(0 1 1k 0 0)
.tran 0.1e-06 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
